US07872021B2
1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-1,2,3,4-tetrahydro-2-quinolinylcarboxylic acid, methyl ester
A solution is prepared of 300 mg (1.32 mmol) of 1,2,3,4-tetrahydro-2-quinolinylcarboxylic acid methyl ester in 20 ml of acetonitrile and, at ambient temperature, 309 mg (1.32 mmol) of 4-(1,1-dimethylethyl)-benzenesulfonyl chloride are added, then 0.29 ml (2.64 mmol) of N-methylmorpholine. The reaction mixture is agitated for 18 hours with solvent reflux and then concentrated under reduced pressure. The evaporation residue is collected in 50 ml of ethyl acetate and washed with a solution of hydrochloric acid 1 N then by a solution of saturated sodium bicarbonate. The organic phase is dried on magnesium sulfate and concentrated under reduced pressure. The raw product is purified by silica gel chromatography eluting with the help of a methylcyclohexane/ethyl acetate mixture (99/1 then 95/5; v/v). In this way the expected product is obtained in the form of a white solid (yield=22%).

reactant | 1,2,3,4-tetrahydro-2-quinolinylcarboxylic acid methyl ester | 1.32 mmol, 300 mg | COC(=O)C1NC2=CC=CC=C2CC1 | C11H13NO2
reactant | 4-(1,1-dimethylethyl)-benzenesulfonyl chloride | 1.32 mmol, 309 mg | CC(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | N-methylmorpholine | 2.64 mmol, 0.29 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[[4-(1,1-dimethylethyl)phenyl]sulfonyl]-1,2,3,4-tetrahydro-2-quinolinylcarboxylic acid, methyl ester | CC(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC2=CC=CC=C12)C(=O)OC | C21H25NO4S
